US07781591B2
A mixture of 5-(dimethylamino)-2-[(dimethylamino)methylene]-3-oxopent-4-enenitrile (64.3 g, 333 mmol) and ammonium acetate (126 g, 1.66 mol) in EtOH (1.8 L) was heated at reflux for 60 h and concentrated to remove solvent. The resultant semi-solid residue was diluted with EtOAc, filtered and washed with EtOAc followed by CH2Cl2. The filtrate was evaporated to a reduced volume. The precipitated solids were collected by filtration, washed with EtOAc and a minimum amount of EtOH. The process of evaporation and crystallization was repeated to obtain more solid product from the mother liquor. The combined off-white solids provided 20.9 g of 4-hydroxynicotinonitrile (53%); melting range: 234-236° C.

reactant | 5-(dimethylamino)-2-[(dimethylamino)methylene]-3-oxopent-4-enenitrile | 333 mmol, 64.3 g | CN(C=CC(C(C#N)=CN(C)C)=O)C | C10H15N3O
reactant | ammonium acetate | 1.66 mol, 126 g | C(C)(=O)[O-].[NH4+]
solvent | EtOH | 1.8 L | CCO | C2H6O
product | 4-hydroxynicotinonitrile | 20.9 g, 53% | OC1=CC=NC=C1C#N | C6H4N2O
